US06352993B1
2: 5,6-dimethyl-2-(4-fluorophenylamino)-4-(6-methoxy-1-methyl-1, 2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.72 ml, 7.5 mmol) and triethylamine(1.0 ml, 7.3 mmol) were added to a solution of 5,6-dimethyl-2-chloro4-(6-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(1.6 g, 5.0 mmol) in dimethylformamide(10 ml), 1.26 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 4-fluoroaniline | 7.5 mmol, 0.72 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 7.3 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2-chloro4-(6-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 5.0 mmol, 1.6 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=C(C=C2CC1)OC)C | C17H20ClN3O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(6-methoxy-1-methyl-1, 2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.26 g, Yield: 2260% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)OC)C | InChI=1S/C23H25FN4O.ClH/c1-14-15(2)25-23(26-19-7-5-18(24)6-8-19)27-22(14)28-12-11-17-13-20(29-4)9-10-21(17)16(28)3;/h5-10,13,16H,11-12H2,1-4H3,(H,25,26,27);1H
